US08227546B2
b) 6-Bromo-2-(2,6-diisopropylphenyl)iminopyridine)
A dry, 500 mL 3-neck round bottom flask is charged with a solution of 2-formyl-6-bromopyridine (72.1 g, 383 mmol) and 2,6-diisopropylaniline (72.5 g, 383 mmol) in 500 mL of anhydrous toluene containing 0.3 nm pore size molecular sieves (6 g) and 80 mg of p-TsOH. The reactor is equipped with a condenser, an over head mechanical stirrer and a thermocouple well. The mixture is heated to 70° C. under N2 for 12 h. After filtration and removal of the volatiles under reduced pressure, a brown oil is isolated. Yield was 109 g, 81.9 percent.

reactant | 2-formyl-6-bromopyridine | 383 mmol, 72.1 g | C(=O)C1=NC(=CC=C1)Br | C6H4BrNO
reactant | 2,6-diisopropylaniline | 383 mmol, 72.5 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | p-TsOH | 80 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-2-(2,6-diisopropylphenyl)iminopyridine | BrC1=CC=CC(N1)=NC1=C(C=CC=C1C(C)C)C(C)C | C17H21BrN2
